US06472372B1
3-(3-Quinolinyl)-2-propynal
A mixture of 3-(3-quinolinyl)-2-propyn-1-ol (prepared as described in J. Med Chem. 1996, 39, 3179) (360 mg, 1.96 mmol) and the Dess-Martin reagent (1.00 g, 2.36 mmol) in dichloromethane (10 mL) was stirred at RT for 1.5 h. The solution was washed with sat. aq. NaHCO3 and brine, dried (MgSO4), and concentrated. Purification by chromatography (SiO2, 1:4 hexane/ethyl acetate) yielded 258 mg (72%) of the title compound. MS 182 (M+H)+.

reactant | 3-(3-quinolinyl)-2-propyn-1-ol | 1.96 mmol, 360 mg | N1=CC(=CC2=CC=CC=C12)C#CCO | C12H9NO
reactant | Dess-Martin reagent | 2.36 mmol, 1.00 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 3-(3-Quinolinyl)-2-propynal | 258 mg, 72% | N1=CC(=CC2=CC=CC=C12)C#CC=O | C12H7NO
